US05684165
1. 2-Methylthio-5-nitrothieno[3,2-b]thiophene (9)
1.0 g (5.4 mmol) of 2-methylthiothieno[3,2-b]thiophene is dissolved in 20 ml of acetic anhydride, and the solution is cooled to -20° C. At this temperature, a mixture of 0.6 ml of 70% nitric acid in 5 ml of acetic anhydride is added dropwise. The mixture is then allowed to warm to room temperature. For working up, the mixture is added to ice water end extracted several times with diethyl ether, and the organic phase is washed with saturated sodium hydrogen carbonate solution until neutral and dried with anhydrous magnesium sulfate. After removal of the solvent in a rotary evaporator under reduced pressure, the orange-yellow crude product obtained is purified by preparative column chromatography (SiO2 //2:1 cyclohexane/ethyl acetate, Rf : 0.62) and recrystallized from cyclohexane.

reactant | 2-methylthiothieno[3,2-b]thiophene | 5.4 mmol, 1.0 g | CSC1=CC2=C(S1)C=CS2 | C7H6S3
reactant | nitric acid | 0.6 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Methylthio-5-nitrothieno[3,2-b]thiophene | CSC1=CC2=C(S1)C=C(S2)[N+](=O)[O-] | C7H5NO2S3
